US05804588
2-Ethyl-8-methoxyquinoline-5-carboxylic acid
A mixture of 5-bromo-2-ethyl-8-methoxyquinoline (3.3 g), sodium hydroxide (3.1 g, 46% solution in water), triphenylphosphine (0.22 g), and bis(triphenylphosphine)palladium (II) chloride (0.14 g) in tetrahydrofuran (14 ml) and water (7 ml) was stirred in a pressurised reaction vessel and charged with carbon monoxide to a pressure of 160 psi. The vessel was heated to 105° C. and stirred for 24 hours. The reaction was allowed to cool and depressurised. The mixture was filtered and the solid collected washed with tetrahydrofuran (2×10 ml). The solid was dissolved in hot methanol (10 ml) and water (10 ml), and the solution filtered to remove any remaining solids. The hot solution was treated with glacial acetic acid (2 ml) and cooled in ice. The resulting precipitate was filtered off and dried over silica gel under vacuum to afford the title compound as a white solid (0.44 g).

reactant | 5-bromo-2-ethyl-8-methoxyquinoline | 3.3 g | BrC1=C2C=CC(=NC2=C(C=C1)OC)CC | C12H12BrNO
reactant | sodium hydroxide | 3.1 g | [OH-].[Na+]
reactant | triphenylphosphine | 0.22 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon monoxide | [C]=O | CO
reactant | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
solvent | water | 7 ml | O | H2O
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.14 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 2-Ethyl-8-methoxyquinoline-5-carboxylic acid | 0.44 g | C(C)C1=NC=2C(=CC=C(C2C=C1)C(=O)O)OC | C13H13NO3
